US08202858B2
1-(4-Hydroxymethyl-piperidin-1-yl)-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one
Sodium borohydride (12 mg, 0.32 mmol) was added to a solution of 1-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-piperidine-4-carbaldehyde from Example E58.1 (74 mg, 0.15 mmol) in methanol (6 ml). The mixture was stirred for 1 h at room temperature, acidified with 1M HCl and concentrated in vacuo. The residue was dissolved in EtOAc, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was crystallised from chloroform and pet. ether to give a white powder identified as the title compound (28 mg, 38%).

reactant | Sodium borohydride | 0.32 mmol, 12 mg | [BH4-].[Na+]
reactant | 1-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-piperidine-4-carbaldehyde | CC1=C(C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)CCC(=O)N2CCC(CC2)C=O | C28H31N5O3
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 6 ml | CO | CH4O
product | 1-(4-Hydroxymethyl-piperidin-1-yl)-3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propan-1-one | 28 mg, 38% | OCC1CCN(CC1)C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C28H33N5O3
